US04556738
In an autoclave there are added 32.5 g (0.1 moles) of 2-chloro-4'-fluoro-5,3'-dinitro benzophenone, 15.9 g (0.15 moles) of sodium carbonate, 2 g of 5% palladium/alumina catalyst (from Nihon-Engelhardt Co.) and 100 ml of ethanol. With the mixture being stirred at 30°-35° C., there is introduced hydrogen into the autoclave, at a constant pressure of 10 Kg/cm2. G, to carry out the reaction for ten hours. After the completion of the reaction, the reaction mixture is heated up to filter out the catalyst and the inorganic salt. Then, on cooling the mixture there is obtained 3,3'-diamino benzophenone in the form of yellow needle-like crystals. The crystals are filtered, washed with 10 ml of ethanol and dried. Yield 16.2 g (76.3%). M.P. 149°-151° C.

reactant | 2-chloro-4'-fluoro-5,3'-dinitro benzophenone | 0.1 moles, 32.5 g | ClC1=C(C(=O)C2=CC(=C(C=C2)F)[N+](=O)[O-])C=C(C=C1)[N+](=O)[O-] | C13H6ClFN2O5
reactant | sodium carbonate | 0.15 moles, 15.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium/alumina | 2 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,3'-diamino benzophenone | NC=1C=C(C(=O)C2=CC(=CC=C2)N)C=CC1 | C13H12N2O
